US05700809
6-Hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a slurry of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (prepared by the method of Grimewald, J. Med. Chem., 1987, 30, 2208) (1.2 g, 5.2 mmol) and triethylamine (0.8 ml, 5.7 mmol) in dichloromethane (40 ml) was added a solution of di-tert-butyl dicarbonate (1.2 g, 5.5 mmol) in dichloromethane (10 ml). The mixture was stirred for 2 h. The reaction mixture was washed with a solution of citric acid (2×50 ml), brine (2×50 ml), dried over magnesium sulphate, filtered and evaporated under reduced pressure to give the title compound as an oil (1.3 g, 100%); δH (CDCl3) 1.44 (9H, s, C(CH3)3), 2.77 (2H, t, J 6 Hz, CH2), 3.79 (2H, br s, CH2), 4.54 (2H, s, CH2), 6.64 (1H, s, ArH), 6.69 (1H, d, J 7.5 Hz, ArH), and 6.96 (1H, d, J 8.5 Hz, ArH).

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.OC=1C=C2CCNCC2=CC1
reactant | triethylamine | 5.7 mmol, 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.5 mmol, 1.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-Hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.3 g, 100% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
